US07534887B2
112c) (2S)-3-((6-Chloro-2-naphthyl)sulfonyl)-1-(4-(((2Z)-3-methyl-2-(methylimino)-2,3-dihydro-1,3-thiazol-4-yl)methyl)-1-piperazinyl)-1-oxopropan-2-ol
To a suspension of (2S)-3-((6-chloronaphthalen-2-yl)sulfonyl)-2-hydroxypropanoic acid (0.32 g), N-((2Z)-3-methyl-4-(-1-piperazinylmethyl)-1,3-thiazol-2(3H)-ylidene)methanamine trihydrochloride (0.51 g), HOBt (0.20 g) and triethylamine (0.63 mL) in DMF (5 mL), WSC (0.21 g) was added, and the mixture was mixed at room temperature for 22 hours. The reaction solution was concentrated under reduced pressure. The residue was basified with an aqueous potassium carbonate solution, and then the mixture was extracted with ethyl acetate/THF. The extract was dried over anhydrous magnesium sulfate, the solvent was then distilled off, and the residue was purified with a basic silica gel column to give the title compound (0.12 g, 23%) as a colorless powder.

reactant | (2S)-3-((6-chloronaphthalen-2-yl)sulfonyl)-2-hydroxypropanoic acid | 0.32 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C[C@H](C(=O)O)O | C13H11ClO5S
reactant | N-((2Z)-3-methyl-4-(-1-piperazinylmethyl)-1,3-thiazol-2(3H)-ylidene)methanamine trihydrochloride | 0.51 g | Cl.Cl.Cl.CN1/C(/SC=C1CN1CCNCC1)=N/C
reactant | HOBt | 0.20 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.21 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.63 mL | C(C)N(CC)CC | C6H15N
product | (2S)-3-((6-Chloro-2-naphthyl)sulfonyl)-1-(4-(((2Z)-3-methyl-2-(methylimino)-2,3-dihydro-1,3-thiazol-4-yl)methyl)-1-piperazinyl)-1-oxopropan-2-ol | 0.12 g, 23% | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C[C@H](C(=O)N1CCN(CC1)CC=1N(/C(/SC1)=N/C)C)O | C23H27ClN4O4S2
